US07622494B2
(1S)-6-bromo-N-[(1R)-1-phenylethyl]-2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride salt was prepared by separation of diastereomeric 6-bromo-N-[(1R)-1-phenylethyl]-2,3,4,9-tetrahydro-1H-carbazol-1-amine by SFC (Berger Amino, Chiral Technologies, 10% methanol, (2% diethyl amine/10% chloroform) 1500 psi, 50° C., 2 mL/min, retention time: 19.8 min.) The oil obtained was converted to the HCl salt to give a white solid. [α]25=−4.3 (c 0.23, MeOH); 1H-NMR (DMSO-d6): δ 11.6 (s, 1H), 10.08 (s, 1H), 9.64 (s, 1H), 7.86 (d, J=6.8 Hz, 1H), 7.70 (d, J=1.8 Hz, 1H), 7.55-7.45 (m, 3H), 7.42 (d, J=8.6 Hz, 1H), 7.29 (dd, J=6.8 Hz, J=1.8 Hz, 1H), 4.75 (m, J=6.4 Hz, 1H), 4.57 (m, 1H), 3.47-3.37 (m, 2H), 2.70-2.64 (m, 2H), 2.13-2.07 (m, 2H), 1.65 (d, J=6.8 Hz, 3H); MS m/z 367, 369 (M−1); Anal. Calcd. For C20H22BrN2Cl: C, 59.20; H, 5.46; N, 6.90. Found: C, 59.29; H, 5.55; N, 6.92.

reactant | 6-bromo-N-[(1R)-1-phenylethyl]-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)N[C@H](C)C1=CC=CC=C1 | C20H21BrN2
reactant | diethyl amine | C(C)NCC | C4H11N
reactant | HCl | Cl | ClH
solvent | MeOH | CO | CH4O
product | (1S)-6-bromo-N-[(1R)-1-phenylethyl]-2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride salt | Cl.BrC=1C=C2C=3CCC[C@@H](C3NC2=CC1)N[C@H](C)C1=CC=CC=C1 | InChI=1S/C20H21BrN2.ClH/c1-13(14-6-3-2-4-7-14)22-19-9-5-8-16-17-12-15(21)10-11-18(17)23-20(16)19;/h2-4,6-7,10-13,19,22-23H,5,8-9H2,1H3;1H/t13-,19+;/m1./s1
